US07329662B2
5-(3-Chloro-4-fluoro-phenyl)-2-methyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile
Reaction of 1-(3-chloro-4-fluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (269 mg, 1.0 mmol), prepared from commercially available 3-chloro-4-fluoro-acetophenone according to general procedure A, and commercially available 3-amino-4-cyano-5-methyl-pyrazole (122 mg, 1.0 mmol) according to general procedure B yielded the title compound as a light yellow solid (243 mg, 69%). MS (ISP) 355.0 [(M+H)+]; mp 196° C.

reactant | 1-(3-chloro-4-fluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 269 mg | ClC=1C=C(C=CC1F)C(CC(C(F)(F)F)=O)=O | C10H5ClF4O2
reactant | 3-amino-4-cyano-5-methyl-pyrazole | 1.0 mmol, 122 mg | NC1=NNC(=C1C#N)C | C5H6N4
product | 5-(3-Chloro-4-fluoro-phenyl)-2-methyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 243 mg, 69% | ClC=1C=C(C=CC1F)C1=NC=2N(C(=C1)C(F)(F)F)N=C(C2C#N)C | C15H7ClF4N4
